US07390904B2
1-Cyclohexyloxy-4-methoxy-2,2,6,6-tetramethylpiperidine
A solution of 0.246 g (0.885 mmol) of ferrous sulfate heptahydrate and 0.246 g (2.6 mmol) of methanesulfonic acid in 2 ml of water is added to a mixture of 4.85 g (26.0 mmol) of 1-oxyl-4-methoxy-2,2,6,6-tetramethylpiperidine, 35 ml of acetonitrile, and 22 ml of cyclohexane. The reaction mixture is heated to 52° C. A solution of 5.68 g (83 mmol) of 50% aqueous hydrogen peroxide is added dropwise to the reaction mixture over 2.5 hours while the reaction temperature is brought to and maintained at reflux (62° C). After the peroxide is added, the reaction mixture is stirred at reflux for 1.75 hours, and then allowed to cool slowly to 33° C. Peroxide is decomposed by the addition of aqueous sodium sulfite solution. The reaction mixture is diluted with ethyl acetate, and the organic layer is washed with water and then concentrated. Purification by flash chromatography with 20:1 heptane-ethyl acetate affords 4.11 g (59% yield) of the title compound, a colorless liquid. Structure is verified by NMR analysis.

reactant | methanesulfonic acid | 2.6 mmol, 0.246 g | CS(=O)(=O)O | CH4O3S
reactant | 1-oxyl-4-methoxy-2,2,6,6-tetramethylpiperidine | 26.0 mmol, 4.85 g | ON1C(CC(CC1(C)C)OC)(C)C | C10H21NO2
reactant | hydrogen peroxide | 83 mmol, 5.68 g | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
solvent | cyclohexane | 22 ml | C1CCCCC1 | C6H12
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | 1-Cyclohexyloxy-4-methoxy-2,2,6,6-tetramethylpiperidine | 4.11 g, 59% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)OC)(C)C | C16H31NO2
